US04792614
To a solution of 0.12 mol of ethynylmagnesium bromide in 300 mL of dry THF at 23° C. was added 15.5 g (90 mmol) of 2-chloro-4'-fluoro-acetophenone as a solid. The mixture stirred at 23° C. for 24 hours when it was quenched with 15 mL of saturated NH4Cl and poured int 250 mL of diethyl ether. The ether layer was separated and washed with H2O, dried (MgSO4) and concentrated. The residue was added to 300 mL of dry diethyl ether and 3.6 g (90 mmol) of pulverized NaOH was added. The reaction mixture was stirred at 23° C. for 3 hours, then the ether was washed twice with 100 mL of H2O and once with saturated brine. The organic layer was dried (MgSO4), concentrated and distillation (b.p. 55°-58° C. at 0.34 mmHg) provided 9.5 g (66%) of 3,4-epoxy- 3-(4'-fluorophenyl)-1-butyne as a liquid, homogeneous by spectroscopic criteria; IR (film) 3275, 1595, 1505, 1218 cm-1 ; 1HNMR (80 MHz, CDCl3) δ 7.45 (m, 2H), 7.15 (m, 2H), 3.20 (ABq, 2H, J=8.0 Hz, ΔνAB =39.2 Hz), 2.51 (s, 1H).

reactant | ethynylmagnesium bromide | 0.12 mol | C(#C)[Mg]Br
reactant | 2-chloro-4'-fluoro-acetophenone | 90 mmol, 15.5 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
reactant | NaOH | 90 mmol, 3.6 g | [OH-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3,4-epoxy- 3-(4'-fluorophenyl)-1-butyne | 9.5 g, 66% | O1C(C#C)(C1)C1=CC=C(C=C1)F | C10H7FO
